US08076324B2
4-(3-Fluoro-4-methoxyphenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile
Under an argon atmosphere, 15 ml of 3-fluoro-4-methoxyphenylmagnesium bromide solution (0.5 M in THF) were dissolved in 15 ml of dry THF in a dried two-necked flask equipped with a reflux condenser, and subsequently 1.5 g of 4-oxo-1-phenylcyclohexanecarbonitrile in the form of a suspension in 10 ml of THF were slowly added dropwise at room temperature. A precipitate was formed in the course of this. The reaction solution was heated under reflux for 2 h, subsequently added to ice water, treated with saturated ammonium chloride solution and extracted three times with EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified chromatographically (HEP/EA 2:1) on silica gel. 950 mg of the title compound were obtained as a white solid.

reactant | 3-fluoro-4-methoxyphenylmagnesium bromide | 0.5 M, 15 ml | FC=1C=C(C=CC1OC)[Mg]Br
reactant | 4-oxo-1-phenylcyclohexanecarbonitrile | 1.5 g | O=C1CCC(CC1)(C#N)C1=CC=CC=C1 | C13H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(3-Fluoro-4-methoxyphenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile | 950 mg | FC=1C=C(C=CC1OC)C1(CCC(CC1)(C#N)C1=CC=CC=C1)O | C20H20FNO2
